US04797492
3-Trifluoromethyl-5-aminoisoxazole
Trifluoroacetoacetonitrile (5.12 g, 0.030 mole), hydroxyurea (2.51 g, 0.033 mole) and methanol were heated under reflux for 150 hours to give the title compound (0.50 g, 11.0%).

reactant | Trifluoroacetoacetonitrile | 0.030 mole, 5.12 g | FC(C(CC#N)=O)(F)F | C4H2F3NO
reactant | hydroxyurea | 0.033 mole, 2.51 g | ONC(=O)N | CH4N2O2
solvent | methanol | CO | CH4O
product | 3-Trifluoromethyl-5-aminoisoxazole | 0.50 g, 11.0% | FC(C1=NOC(=C1)N)(F)F | C4H3F3N2O
